US07700655B2
(5) N-[3,5-Bis(trifluoromethyl)phenyl]-2-hydroxy-5-isobutyrylbenzamide (Compound No. 79)
A mixture of 5-isobutyryl-N-[3,5-bis(trifluoromethyl)phenyl]-2-methoxybenzamide (143.4 mg, 0.33 mmol), 2,4,6-collidine (3 ml) and lithium iodide (53.1 mg, 0.40 mmol) was refluxed for 1 hour. After cooling, the reaction mixture was poured into 2N hydrochloric acid and extracted with ethyl acetate. After the organic layer was washed with brine, dried over anhydrous sodium sulfate, the residue obtained by evaporation under reduced pressure was purified by chromatography on silica gel (n-hexane:ethyl acetate=3:1) and crystallized (ethyl acetate/isopropyl ether) to give the title compound (90.3 mg, 65.3%) as a white crystal.

reactant | 5-isobutyryl-N-[3,5-bis(trifluoromethyl)phenyl]-2-methoxybenzamide | 0.33 mmol, 143.4 mg | C(C(C)C)(=O)C=1C=CC(=C(C(=O)NC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)C1)OC | C20H17F6NO3
reactant | 2,4,6-collidine | 3 ml | N1=C(C=C(C=C1C)C)C | C8H11N
reactant | lithium iodide | 0.40 mmol, 53.1 mg | [I-].[Li+]
reactant | hydrochloric acid | 2N | Cl | ClH
product | N-[3,5-Bis(trifluoromethyl)phenyl]-2-hydroxy-5-isobutyrylbenzamide | 90.3 mg, 65.3% | FC(C=1C=C(C=C(C1)C(F)(F)F)NC(C1=C(C=CC(=C1)C(C(C)C)=O)O)=O)(F)F | C19H15F6NO3
